2186-03-03 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 53 y/o F with PMH of CNS lyme who presents from OSH
   with leukocytosis, abdominal pain, hypotension and concern for acute
   abdomen.
   24 Hour Events:
 MULTI LUMEN - START [**2186-3-2**] 04:47 PM
   - 2 units PRBC overnight
   - IVF given
   - Surgery wanted to cancel LENI
   - passing gas
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-2**] 09:30 PM
   Metronidazole - [**2186-3-3**] 12:00 AM
   Ciprofloxacin - [**2186-3-3**] 04:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2186-3-3**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-3**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 93 (75 - 108) bpm
   BP: 111/54(67) {81/40(52) - 111/72(77)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 3 (2 - 13)mmHg
   Total In:
                                                                  2,128 mL
                                                                  1,674 mL
   PO:
   TF:
   IVF:
                                                                  2,128 mL
                                                                  1,074 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                    215 mL
                                                                    375 mL
   Urine:
                                                                    215 mL
                                                                    300 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,913 mL
                                                                  1,299 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   GENERAL: Pleasant, tired-appearing, alert, in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP flat
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Hyperactive BS. Soft, diffusely tender to palpation, no
   guarding, does have diffuse rebound
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: Diffuse maculo-papular rash over entire body, sparing area
   surrounding lips, areas of confluence on face and back.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**12-9**]+ reflexes, equal BL. Gait
   assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   225 K/uL
   9.9 g/dL
   119 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   11 mg/dL
   107 mEq/L
   140 mEq/L
   28.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2186-3-2**]  06:13 PM
                             [**2186-3-2**]  11:15 PM
                             [**2186-3-3**]  04:54 AM
   WBC
   13.8
   10.5
   Hct
   23.7
   24.0
   28.2
   Plt
   276
   225
   Cr
   0.4
   0.5
   Glucose
   108
   119
   Other labs: PT / PTT / INR:14.7/31.0/1.3, CK / CKMB / Troponin-T:/2/,
   ALT / AST:37/17, Alk Phos / T Bili:49/0.5, Amylase / Lipase:31/21,
   Differential-Neuts:49.2 %, Lymph:39.6 %, Mono:3.6 %, Eos:7.0 %,
   Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  53 y/o F with PMH of CNS lyme who presents from
   OSH with leukocytosis, abdominal pain, hypotension and concern for
   acute abdomen.
   .
   # Abdominal pain: Differential is broad including gastritis, PUD,
   perforated ulcer, pancreatitis, colitis.  Abdominal pain is fairly
   diffuse, however her abdomen is soft.  There was concern for free air
   at OSH, unfortunately we do not have the data here to confirm this. At
   OSH the patient's abdomen was reportedly rigid and there was concern
   for an acute process which prompted urgent transfer for possible
   surgery.  At this point she is hemodynamically stable and her exam is
   not concerning for peritoneal signs.  Surgery is following closely.
   Patient has been on high-dose steroids so an ulcer is possible, however
   was on GI ppx at OSH with Pepsid.  KUB was also concerning for possible
   obstruction.  Labs here show LFTs and pancreatic enzymes wnl making
   pancreatitis less likely.  C. diff is of concern given recent long
   antibiotics course and leukocytosis, however was neg. x 1 at OSH.
   - Surgery wants GI to scope to provide evidence for/against
   intraluminal cause
 PUD, etc., such that if positive will proceed w/
   surgery, if negative will proceed with angiography for RP bleed
   - GI: scoping this AM
   - will discuss final management plan in coordination w/ GI and Surgery
   - continue serial abd exams
   - continue PPI gtt
   - Cipro/flagyl and Vanco ppx, day#2
   - obtain OSH records
   .
   # Hypotension: Differential includes sepsis, bleeding, volume
   depletion, toxic shock.  Given leukocytosis an infection is high on the
   differential.  No no longer hypotensive after fluid resuscitaiton
   - Cont. IVF boluses to maintain MAP>60 and UOP>30
   - Consider pressors if unable to maintain with IVF
   - Hct q6
   - CIS
   .
   # Leukocytosis: Improving.  Peaked at OSH this morning at 20.8.
   Currently 13, however this is after abx since this am.  Sources include
   abdomen, line-infection, urine, lungs.  Cultures at OSH reportedly
   negative, however UA there showed 1+ bacteria and [**4-16**] WBC.  Given
   recent antibiotics, diarrhea and abdominal pain, c. diff is of
   concern.  Was neg. x1 at OSH.  CT at OSH also concerning for PNA,
   however patient does not have cough and lungs are clear.  Has low grade
   fever here.
   - f/u OSH culture data
   - f/u CT read here for possible abdominal source
   - CIS
   - Cont. vanc/cipro/flagyl per surgery recommendation
   - Add on differential
   .
   # PE: CTA confirmed PE at OSH, was on Arixtra, last dose this morning.
   Unclear what precipitated this exept for risk factor of being
   hospitalized.  No h/o malignancy, has been getting routine mom[**Name (NI) 5369**]
   and Paps, has not had colonoscopy.  No personal or fam hx. of clot, not
   on HRT.
   - Holding anticoagulation for now in setting of possible procedure
   - Attempt to obtain OSH CT films to confirm PE
   .
   #. CNS Lyme: Received 4 weeks of ceftriaxone for this per her
   Neurologist Dr. [**Last Name (STitle) 5370**].  Per notes from ID consult at OSH, the diagnosis
   of this is in question based on her CSF results. Reports a history of
   neuropathy in her hand and feet which is improved and stable.
   - follow as outpt
   .
   # Rash: Possible reaction to ceftriaxone.  Dermatology was consulted at
   OSH due to concern for [**First Name8 (NamePattern2) 2527**] [**Location (un) **].  Started on solumedrol which
   was being tapered.  Rash improving.
   - Continue steroid taper once discussed with surgery
   .
   # Anxiety:
   - Cont. ativan and effexor once not NPO
   .
   FEN: NPO for now, IVF
   .
   PPX:
   -DVT ppx with [**Last Name (LF) **], [**First Name3 (LF) 124**] restart heparin if no surgery planned
   -Bowel regimen on hold
   -Pain management with morphine
   .
   ACCESS: will take out R IJ from OSH,  likely need central access
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: [**Name (NI) 50**] [**Name (NI) 5371**] [**Telephone/Fax (1) 5372**]
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-3-2**] 04:47 PM
   18 Gauge - [**2186-3-3**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-03-03 09:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2186-3-2**] 04:47 PM
   Abdominal/pelvic CT: fluid collection around the 3rd and 4th portion of
   the duodenum concerning for acute bleed; no free air
   NGT not showing coffee grounds or blood
   Transfused 2 u pRBCs and IVF for hypotension; no pressors required
   Patient notes that she passed gas from below
                   History obtained from Patient
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2186-3-3**] 04:00 AM
   Vancomycin - [**2186-3-3**] 07:30 AM
   Metronidazole - [**2186-3-3**] 08:25 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2186-3-3**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2186-3-3**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 82 (75 - 108) bpm
   BP: 111/53(66) {81/40(52) - 111/72(77)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 3 (1 - 13)mmHg
   Total In:
                                                                  2,128 mL
                                                                  2,190 mL
   PO:
   TF:
   IVF:
                                                                  2,128 mL
                                                                  1,590 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                    215 mL
                                                                    505 mL
   Urine:
                                                                    215 mL
                                                                    430 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,913 mL
                                                                  1,685 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffuse mild
   tenderness, No guarding, rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: diffuse maculopapular rash more confluent on back
   and trunk
   Neurologic: Responds to: Not assessed, Oriented (to): Fully oriented,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   225 K/uL
   119 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   11 mg/dL
   107 mEq/L
   140 mEq/L
   28.2 %
   10.5 K/uL
         [image002.jpg]
                             [**2186-3-2**]  06:13 PM
                             [**2186-3-2**]  11:15 PM
                             [**2186-3-3**]  04:54 AM
   WBC
   13.8
   10.5
   Hct
   23.7
   24.0
   28.2
   Plt
   276
   225
   Cr
   0.4
   0.5
   Glucose
   108
   119
   Other labs: PT / PTT / INR:14.7/31.0/1.3, CK / CKMB / Troponin-T:/2/,
   ALT / AST:37/17, Alk Phos / T Bili:49/0.5, Amylase / Lipase:31/21,
   Differential-Neuts:49.2 %, Lymph:39.6 %, Mono:3.6 %, Eos:7.0 %,
   Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):
   Transfused 2 units pRBCs with appropriate bump in Hct.
   Hemmodynamically stable this morning. Unclear whether this was related
   to a perforated duodenal ulcer, course not consistent albeit some
   symptoms may be masked on steroids.  Also may have had a spontaneous
   retroperitoneal bleed on antiocoagulation for possible PE.
 HYPOTENSION (NOT SHOCK):  In setting of acute blood loss and
   hypovolemia, responsive to blood transfusions and IVF resusitation.
   Also concerned for early sepsis, most likely source would be the
   abdomen.  Positive UA.  Now on vanco/cipro/flagyl. Had 3 sets of blood
   cultures and urine culture at the outside hospital no growth to date.
   Continue antibiotics.
 PULMONARY EMBOLISM (PE), ACUTE:  Unclear that she has had a PE,
   reports from the outside hospital inconsistent documenting RUL and then
   RLL embolism, now holding anticoagulation in setting of acute blood
   loss.  Awaiting outside hospital films.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Adequately controlled on
   morphine IV
 DIFFUSE RASH:  Rash seems most consistent with drug reaction related
   to CTX.  No oral lesions on exam here.  Steroids discontinued.
 CNS LYME DISEASE:  Has completed a course of CTX for presumed lyme.
 RIGHT IJ from outside hospital to be discontinued.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2186-3-2**] 04:47 PM
   18 Gauge - [**2186-3-3**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2186-03-04 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 53 y/o F with PMH of CNS lyme who presents from OSH
   with leukocytosis, abdominal pain, hypotension and concern for acute
   abdomen.
   24 Hour Events:
 FEVER - 102.6
F - [**2186-3-3**] 04:00 PM
   - Uploaded OSH scans, Confirmed PE
   - IVC filter placed
   - Hct stable
   - GI did EGD, diffuse edema in duodenum, no e/o fresh blood
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Hives;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-3**] 08:43 PM
   Metronidazole - [**2186-3-4**] 12:00 AM
   Ciprofloxacin - [**2186-3-4**] 03:46 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2186-3-3**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-4**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.4
C (101.2
   HR: 109 (78 - 109) bpm
   BP: 118/59(71) {79/40(56) - 118/74(77)} mmHg
   RR: 26 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 15 (1 - 22)mmHg
   Total In:
                                                                  4,934 mL
                                                                  1,292 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  4,334 mL
                                                                  1,172 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                  2,090 mL
                                                                    965 mL
   Urine:
                                                                  2,015 mL
                                                                    965 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  2,844 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   GENERAL: Pleasant, tired-appearing, alert, in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP flat
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Hyperactive BS. Soft, diffusely tender to palpation, no
   rebound or guarding, No HSM appreciate.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: Diffuse maculo-papular rash over entire body, sparing area
   surrounding lips, areas of confluence on face and back.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**12-9**]+ reflexes, equal BL. Gait
   assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   182 K/uL
   9.7 g/dL
   101 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   7 mg/dL
   100 mEq/L
   134 mEq/L
   28.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2186-3-2**]  06:13 PM
                             [**2186-3-2**]  11:15 PM
                             [**2186-3-3**]  04:54 AM
                             [**2186-3-3**]  11:36 AM
                             [**2186-3-3**]  08:39 PM
                             [**2186-3-4**]  03:09 AM
   WBC
   13.8
   10.5
   10.6
   10.0
   Hct
   23.7
   24.0
   28.2
   30.1
   26.5
   28.5
   Plt
   [**Telephone/Fax (3) 5392**]82
   Cr
   0.4
   0.5
   0.5
   Glucose
   108
   119
   101
   Other labs: PT / PTT / INR:14.7/31.0/1.3, CK / CKMB / Troponin-T:/2/,
   ALT / AST:26/9, Alk Phos / T Bili:48/0.6, Amylase / Lipase:31/21,
   Differential-Neuts:45.0 %, Band:2.0 %, Lymph:32.0 %, Mono:4.0 %,
   Eos:16.0 %, Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Imaging: LENI read pending
   Uncomplicated IVC filter placement
   Microbiology: BC pending
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
   53 y/o F with PMH of CNS lyme who presents from OSH with leukocytosis,
   abdominal pain, hypotension and concern for acute abdomen.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   # Abdominal pain: likely due to compression of retroperitoneal hematoma
   on celiac plexus. Appears that this may have occurred in the setting of
   falling while on fondaparinux.
   - EGD did not reveal cause of bleeding
   - Surgery has no plan for intervention
   - continue serial abd exams, serial lactates
   - continue PPI
   - Cipro/flagyl and Vanco ppx, day#3
   # Hypotension resolved. Likely due to blood loss. Now with stable hct x
   several days.
   - [**Hospital1 **] hct check
   # Leukocytosis: Improving.  Peaked at OSH this morning at 20.8.
   - F/u micro
   - f/u OSH culture data
   - f/u CT read here for possible abdominal source
   - CIS
   - Cont. vanc/cipro/flagyl per surgery recommendation
   - Add on differential
   # PE: CTA confirmed PE at OSH, was on [**Name (NI) 5396**],  Unclear what
   precipitated this except for risk factor of being hospitalized.  No h/o
   malignancy, has been getting routine mammogram and Paps, has not had
   colonoscopy.  No personal or fam hx. of clot, not on HRT.
   - Holding anticoagulation for now in setting of bleeding
   - S/p IVC filter on [**3-3**]
   #. CNS Lyme: Received 4 weeks of ceftriaxone for this per her
   Neurologist Dr. [**Last Name (STitle) 5370**].  Per notes from ID consult at OSH, the diagnosis
   of this is in question based on her CSF results. Reports a history of
   neuropathy in her hand and feet which is improved and stable.
   - follow as outpt
   # Rash: Possible reaction to ceftriaxone.  Dermatology was consulted at
   OSH due to concern for [**First Name8 (NamePattern2) 2527**] [**Location (un) 744**].  Started on solumedrol which
   was being tapered.  Rash improving.
   - Continue steroid taper once discussed with surgery
   # Anxiety:
   - Cont. ativan and effexor
   FEN: ADAT as no procedures planned.
   PPX:
   -DVT ppx with IVC filter.
   -Bowel regimen on hold
   -Pain management with ultram as pt getting GI upset and hallucinations
   on morphine
   ACCESS: will take out R IJ from OSH,  likely need central access
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) 50**] [**Name (NI) 5371**] [**Telephone/Fax (1) 5372**]
   [**Name2 (NI) **]OSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-3-2**] 04:47 PM
   18 Gauge - [**2186-3-3**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined Mrs [**Known lastname 5397**], and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 5397**] has had an IVC filter placed without difficulty and has had
   stabilization of her Hct without further transfusion. her rash appeart
   to be responding to prednisone and she still complains of abdominal
   pain. CT scan has shown significant intra-peritoneal
   bleed around duodenum and into both paracolic gutters and pelvis.
   Exam notable for Tmof 102.6 BP118/59 HR of 103 RR of 22 with sats of
   96% on 3lpm O2 . She has a diffuse maculopapular rash that appears to
   be resolving. her abdomen is still tender to touch.
    Labs notable for WBC of 10K, HCTof 28.5 , K+of 4 , Crof 0.5 , LDH of
   305, lactate of less than 2. CXR with bilateral small effusions but no
   infiltrate.
   Agree with plan to advance diet slowly as tolerated, discontinue Rt IJ
   line ( per ICU policy) and check caloric counts. She may need short
   term TPN until PO intake has improved. Prednisone will be continued
   till rash has resolved and Eos have decreased.
   IV PPI to be continued on a [**Hospital1 **] basis and she will be transitioned to a
   chair today. if she has no setback over next 24 hrs, we will consider
   transfer to surgical service on regular floor in am [**3-5**]
   Remainder of plan as outlined above.
   Patient is ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2186-3-4**] 01:17 PM ------

2186-03-05 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2186-3-4**] 09:55 AM
   - Hct dropped 3 points so transfused 1 unit but bumped appropriately as
   if drop was lab error. 28-> 25-> 1U-> 30
   - short episode of tachycardia, hypotension while sitting up, resolved
   spontaneously without intervention. Thought to be volume related.
   - restarted home ativan and effexor
   - rash is itchy, started Sarna
   - was irritated/agitated after albuterol, given 50mg PO benadryl
   - ECHO not done today
   - central line pulled
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Hives;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-4**] 08:00 PM
   Metronidazole - [**2186-3-5**] 12:15 AM
   Ciprofloxacin - [**2186-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-5**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 35.8
C (96.4
   HR: 79 (78 - 129) bpm
   BP: 116/65(78) {98/49(64) - 116/71(80)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,431 mL
                                                                    577 mL
   PO:
                                                                    120 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  3,034 mL
                                                                    377 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  3,425 mL
                                                                    570 mL
   Urine:
                                                                  3,425 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      6 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   GENERAL: Pleasant, tired-appearing, alert, in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP flat
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Hyperactive BS. Soft, diffusely tender to palpation, no
   rebound or guarding, No HSM appreciate.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: Diffuse maculo-papular rash over entire body, sparing area
   surrounding lips, areas of confluence on face and back.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**12-9**]+ reflexes, equal BL. Gait
   assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   187 K/uL
   10.2 g/dL
   182 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   7 mg/dL
   101 mEq/L
   136 mEq/L
   29.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2186-3-2**]  06:13 PM
                             [**2186-3-2**]  11:15 PM
                             [**2186-3-3**]  04:54 AM
                             [**2186-3-3**]  11:36 AM
                             [**2186-3-3**]  08:39 PM
                             [**2186-3-4**]  03:09 AM
                             [**2186-3-4**]  01:26 PM
                             [**2186-3-4**]  05:40 PM
                             [**2186-3-5**]  04:12 AM
   WBC
   13.8
   10.5
   10.6
   10.0
   12.2
   Hct
   23.7
   24.0
   28.2
   30.1
   26.5
   28.5
   25.6
   30.4
   29.2
   Plt
   [**Telephone/Fax (3) 5392**]82
   187
   Cr
   0.4
   0.5
   0.5
   0.5
   Glucose
   108
   119
   101
   182
   Other labs: PT / PTT / INR:29.7/36.7/3.0, CK / CKMB / Troponin-T:/2/,
   ALT / AST:26/9, Alk Phos / T Bili:48/0.6, Amylase / Lipase:31/21,
   Differential-Neuts:45.0 %, Band:2.0 %, Lymph:32.0 %, Mono:4.0 %,
   Eos:16.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL, LDH:305 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 y/o F with PMH of CNS lyme who presents from OSH with leukocytosis,
   abdominal pain, hypotension and concern for acute abdomen.
   # GIB-  EGD showed small duodenal ulcer likely [**1-9**] her steriod use, and
   likely also has RP bleed [**1-9**] fondaparinox use. Pt is being treated
   conservatively for both per GI and Surgery.
   - continue PPI [**Hospital1 **]
   - f/u surgery recs
 no plans on intervention
   # Abdominal pain: likely due to compression of retroperitoneal hematoma
   on celiac plexus. Appears that this may have occurred in the setting of
   falling while on fondaparinux.
   - will likely resolve once RP bleed resolves,  continue to moniter
   # Hypotension resolved. Likely due to blood loss. Now with stable hct x
   several days.
   - [**Hospital1 **] hct check
   # Leukocytosis: Improving.  Peaked at OSH this morning at 20.8. Likely
   [**1-9**] sterioids. No ID source identified.
   - D/c antibiotics today (was on vanc/cipro/flagyl day #4)
   # PE: CTA confirmed PE at OSH, was on [**Name (NI) 5396**],  Unclear what
   precipitated this except for risk factor of being hospitalized.  No h/o
   malignancy, has been getting routine mammogram and Paps, has not had
   colonoscopy.  No personal or fam hx. of clot, not on HRT.
   - Holding anticoagulation for now in setting of bleeding
   - S/p IVC filter on [**3-3**]
   - d/c nebs
   #. CNS Lyme: Received 4 weeks of ceftriaxone for this per her
   Neurologist Dr. [**Last Name (STitle) 5370**].  Per notes from ID consult at OSH, the diagnosis
   of this is in question based on her CSF results. Reports a history of
   neuropathy in her hand and feet which is improved and stable.
   - follow as outpt
   # Rash: Possible reaction to ceftriaxone.  Dermatology was consulted at
   OSH due to concern for [**First Name8 (NamePattern2) 2527**] [**Location (un) 744**].  Started on solumedrol which
   was being tapered.  Rash improving.
   - Continue steroid taper once discussed with surgery   - to be on 20
   [**Hospital1 **] prednisone otmorrow
   # Anxiety:
   - Cont. ativan and effexor
   FEN: advance to clears
   PPX:
   -DVT ppx with IVC filter.
   -Bowel regimen on hold
   -Pain management with ultram as pt getting GI upset and hallucinations
   on morphine
   ACCESS: will take out R IJ from OSH,  likely need central access
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) 50**] [**Name (NI) 5371**] [**Telephone/Fax (1) 5372**]
   [**Name2 (NI) **]OSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-3**] 12:00 AM
   20 Gauge - [**2186-3-4**] 06:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: